US07541374B2
2.88 g of 5-bromo-3-t-butyl-1H-1,2,4-triazole 1-ylmethanol was dissolved to 100 ml of dichloromethane. 4.2 ml of thionyl chloride was added to the solution, followed by stirring at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure. Chloroform was added to the residue and filtered. The filtrate was concentrated under reduced pressure to obtain 2.03 g of 5-bromo-3-t-butyl-1-(chloromethyl)-1H-1,2,4-triazole hydrochloride.

reactant | 5-bromo-3-t-butyl-1H-1,2,4-triazole 1-ylmethanol | 2.88 g | BrC1=NC(=NN1CO)C(C)(C)C | C7H12BrN3O
reactant | thionyl chloride | 4.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-bromo-3-t-butyl-1-(chloromethyl)-1H-1,2,4-triazole hydrochloride | 2.03 g | Cl.BrC1=NC(=NN1CCl)C(C)(C)C | InChI=1S/C7H11BrClN3.ClH/c1-7(2,3)5-10-6(8)12(4-9)11-5;/h4H2,1-3H3;1H
